US06995263B2
f] {6-[4-(2-Methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester
In analogy to the procedure described in example 7 a], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 6 b]) was reacted with 5-chloromethyl-4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine in the presence of cesium carbonate and potassium iodide, using acetonitrile as solvent, to obtain the title compound as colorless crystals.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 5-chloromethyl-4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC | C16H16ClF3N2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | {6-[4-(2-Methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC)=O | C28H28F3N3O4
